*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/xtal_osc_NVT_L_lpe.spi
#else
.include ../../../work/xsch/xtal_osc_NVT_L.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}
.param m_I0 = 98
.param m_alpha = 175
.param m_beta = 25
.param m_gamma = 149 

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS  pwl 0 0 10n {AVDD}


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(VDD) i(VDD) v(VOUT_L) v(VOUT_R)


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

save @m.xdut.x2.xm1.msky130_fd_pr__pfet_01v8_lvt[vth]
+ @m.xdut.x2.xm1.msky130_fd_pr__pfet_01v8_lvt[vgs]
+ @m.xdut.x2.xm2.msky130_fd_pr__nfet_03v3_nvt[vth]
+ @m.xdut.x2.xm2.msky130_fd_pr__nfet_03v3_nvt[vgs]
+ @m.xdut.x2.xm3.msky130_fd_pr__nfet_03v3_nvt[vth]
+ @m.xdut.x2.xm3.msky130_fd_pr__nfet_03v3_nvt[vgs]
+ @m.xdut.x2.xm4.msky130_fd_pr__nfet_03v3_nvt[vth]
+ @m.xdut.x2.xm4.msky130_fd_pr__nfet_03v3_nvt[vgs]

optran 0 0 0 1n 1u 0


tran 300n 500m 1p

let vth_p0 = @m.xdut.x2.xm1.msky130_fd_pr__pfet_01v8_lvt[vth]
let vgs_p0 = @m.xdut.x2.xm1.msky130_fd_pr__pfet_01v8_lvt[vgs]
let vth_n1 = @m.xdut.x2.xm2.msky130_fd_pr__nfet_03v3_nvt[vth]
let vgs_n1 = @m.xdut.x2.xm2.msky130_fd_pr__nfet_03v3_nvt[vgs]
let vth_n0 = @m.xdut.x2.xm3.msky130_fd_pr__nfet_03v3_nvt[vth]
let vgs_n0 = @m.xdut.x2.xm3.msky130_fd_pr__nfet_03v3_nvt[vgs]
let vth_n2 = @m.xdut.x2.xm4.msky130_fd_pr__nfet_03v3_nvt[vth]
let vgs_n2 = @m.xdut.x2.xm4.msky130_fd_pr__nfet_03v3_nvt[vgs]

write
quit


.endc

.end
